US05750550
A mixture of 2.28 g (10 mmol) of 1-phenyl-3-trifluoromethyl-5-hydroxypyrazole and 1.6 g (12 mmol) of N-chlorosuccinimide in 8 ml of 20% TFA/acetic acid and 32 mL of acetic acid was stirred at room temperature for 16 hours and diluted with ice/water with cooling. The white precipitate was filtered and purified by column chromatography (silica gel; 20-33% ethyl acetate/hexane) to afford 550 mg (21%) of 1-phenyl-3-trifluoromethyl-4-chloropyrazole as a solid.

reactant | 1-phenyl-3-trifluoromethyl-5-hydroxypyrazole | 10 mmol, 2.28 g | C1(=CC=CC=C1)N1N=C(C=C1O)C(F)(F)F | C10H7F3N2O
reactant | N-chlorosuccinimide | 12 mmol, 1.6 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | TFA acetic acid | 8 ml | C(=O)(C(F)(F)F)O.C(C)(=O)O
solvent | acetic acid | 32 mL | C(C)(=O)O | C2H4O2
product | 1-phenyl-3-trifluoromethyl-4-chloropyrazole | 550 mg, 21% | C1(=CC=CC=C1)N1N=C(C(=C1)Cl)C(F)(F)F | C10H6ClF3N2
